US06344459B1
To a stirred solution of 6-amino-4-[(3-bromophenyl)amino]pyrido[3,2-d]pyrimidine (J Med Chem, 1996;39:1823) (46 mg, 0.15 mmol) and acrylic acid (6 mol eq., 0.91 mmol, 62 μL) in DMA (5.0 mL) under N2 was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI.HCl) (4.0 mol eq., 0.61 mmol, 116 mg). The reaction mixture was stirred for 48 hours with additional amounts of acrylic acid and EDCI.HCl (62 μL/116 mg) being added every 12 hours it was then worked up as above to give after chromatography on silica gel eluting with EtOAc:CH2Cl2 (1:1) to MeOH/CH2Cl2/EtOAc (2:48:50), N-[4-[(3-bromophenyl)amino]pyrido[3,2-d]pyrimidin-6-yl]acrylamide (14 mg, 26%) as a cream powder, mp (CH2Cl2/hexane) 226-228° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]pyrido[3,2-d]pyrimidine | 0.15 mmol, 46 mg | NC=1C=CC=2N=CN=C(C2N1)NC1=CC(=CC=C1)Br | C13H10BrN5
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | EDCI.HCl | 62 μL, 116 mg | CCN=C=NCCCN(C)C.Cl
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
solvent | DMA | 5.0 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
solvent | MeOH CH2Cl2 EtOAc | CO.C(Cl)Cl.CCOC(=O)C
product | N-[4-[(3-bromophenyl)amino]pyrido[3,2-d]pyrimidin-6-yl]acrylamide | 14 mg, 26% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=CC(=N2)NC(C=C)=O | C16H12BrN5O
